US05693811
4-Amino-α,α,-dimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol
Platinum (IV) oxide (0.3g) was added to a suspension of 4-amino-α,α,-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol (0.5 g, 1.95 mmole, U.S. Pat. No. 4,689,338 Example 189) in trifluoroacetic acid (15 mL). The mixture was hydrogenated at 50 psi (3.44×105Pa) overnight. The reaction mixture was filtered to remove the catalyst then concentrated under vacuum. The residue was diluted with water then combined with aqueous sodium bicarbonate. The resulting precipitate was isolated by filtration. The nuclear magnetic resonance spectroscopy indicated the reduced product.

reactant | 4-amino-α,α,-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | NC1=NC=2C=CC=CC2C2=C1N=CN2CC(O)(C)C | C14H16N4O
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum (IV) oxide | 0.3g | [Pt](=O)=O
product | 4-Amino-α,α,-dimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol | NC1=NC=2CCCCC2C2=C1N=CN2CC(O)(C)C | C14H20N4O
